US04920222
3-(4-Chlorophenyl)-3-(3,4-dimethoxyphenyl)acrylic acid morpholide
4-Chloro-3',4'-dimethoxy benzophenone (6.29 g, 25 mmol), sodium tert.-amylate (5.50 g, 50 mmol), acetyl morpholine (23.90 g, 185 mmol), and anhydrous toluene (50 ml) were stirred under reflux for 8 hours. After cooling, the solution was washed twice with water, dried, and the toluene distilled off on a rotary evaporator. The viscous residue was stirred at 50° C. with diisopropyl ether (40 ml), whereupon the substance solidified. After it had cooled to room temperature, the crude product was crushed, filtered by suction, washed with diisopropyl ether (2×5 ml) and dried.

reactant | 4-Chloro-3',4'-dimethoxy benzophenone | 25 mmol, 6.29 g | ClC1=CC=C(C(=O)C2=CC(=C(C=C2)OC)OC)C=C1 | C15H13ClO3
reactant | acetyl morpholine | 185 mmol, 23.90 g | C(C)(=O)N1CCOCC1 | C6H11NO2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4-Chlorophenyl)-3-(3,4-dimethoxyphenyl)acrylic acid morpholide | ClC1=CC=C(C=C1)C(=CC(=O)N1CCOCC1)C1=CC(=C(C=C1)OC)OC | C21H22ClNO4
